US05455258
Alanine methyl ester hydrochloride (7.0 g, 50.0 mmol) is dissolved in methylene chloride (100.0 mL) and triethylamine (20.0 mL, 143.0 mmol). To this solution is added 4-methoxybenzenesulfonyl chloride (10.3 g, 50.0 mmol), and the reaction is stirred at room temperature briefly. The reaction is made basic with 1N sodium hydroxide, and washed with methylene chloride. The combined organic layers are dried (Na2SO4), and the solvent is evaporated. Hexane is added to the residue and the precipitate is collected to give N-[4-methoxybenzenesulfonyl]-alanine methyl ester.

reactant | Alanine methyl ester hydrochloride | 50.0 mmol, 7.0 g | Cl.COC([C@@H](N)C)=O
reactant | triethylamine | 143.0 mmol, 20.0 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 50.0 mmol, 10.3 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methylene chloride | 100.0 mL | C(Cl)Cl | CH2Cl2
product | N-[4-methoxybenzenesulfonyl]-alanine methyl ester | COC([C@@H](NS(=O)(=O)C1=CC=C(C=C1)OC)C)=O | C11H15NO5S
